US06335360B1
1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-chloroindoline-2(S)-carboxylic acid methyl ester
To a solution of 5-chloroindoline-2(R/S)-carboxylic acid methyl ester (1.2 g, 5.69 mmol) and N-t-butoxycarbonyl-2(S)-aminobutyric acid (1.27 g, 6.25 mmol) dissolved in dried dichloromethane (10 ml) under nitrogen at 10° C., was added diisopropylcarbodiimide (0.98 ml, 6.30 mmol). The mixture was stirred at room temperature for 24 hours, then filtered. The filtrate was evaporated under vacuum to afford a brown solid which was purified by column chromatography on silica gel using 20:1 dichloromethane: diethyl ether as eluent. A white foam was obtained which was the mixture of two diastereomers. The two diastereomers were separated by column chromatography on silica gel using 7:3 petroleum spirit:diethyl ether as eluent, and the pure (S,S) form was obtained as a white foam.

reactant | 5-chloroindoline-2(R/S)-carboxylic acid methyl ester | 5.69 mmol, 1.2 g | COC(=O)C1NC2=CC=C(C=C2C1)Cl | C10H10ClNO2
reactant | N-t-butoxycarbonyl-2(S)-aminobutyric acid | 6.25 mmol, 1.27 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC | C9H17NO4
reactant | diisopropylcarbodiimide | 6.30 mmol, 0.98 ml | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-chloroindoline-2(S)-carboxylic acid methyl ester | COC(=O)[C@H]1N(C2=CC=C(C=C2C1)Cl)C([C@H](CC)NC(=O)OC(C)(C)C)=O | C19H25ClN2O5
